US09260441B2
Step F: tert-Butyl 4-(N-hydroxycarbamimidoyl)piperazine-1-carboxylate
To a solution of tert-butyl 4-cyanopiperazine-1-carboxylate (1.22 g, 5.77 mmol) in anhydrous ethanol (10 mL) were added hydroxylamine hydrochloride (420 mg, 6.04 mmol) and triethyl amine (843 L, 6.06 mmol). The reaction was heated to reflux for 45 min, after which TLC showed complete consumption of the starting material. The mixture was allowed to cool to room temperature overnight, and the resulting precipitate was removed by filtration. The filtrate was concentrated, yielding 1.42 g of a yellow gel that was used directly in the next step.

reactant | tert-butyl 4-cyanopiperazine-1-carboxylate | 5.77 mmol, 1.22 g | C(#N)N1CCN(CC1)C(=O)OC(C)(C)C | C10H17N3O2
reactant | hydroxylamine hydrochloride | 6.04 mmol, 420 mg | Cl.NO
reactant | triethyl amine | 6.06 mmol, 843 L | C(C)N(CC)CC | C6H15N
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | tert-Butyl 4-(N-hydroxycarbamimidoyl)piperazine-1-carboxylate | 1.42 g | ONC(=N)N1CCN(CC1)C(=O)OC(C)(C)C | C10H20N4O3
